US04111933
16 ml (0.22 mol) of liquid phosgene are condensed into 33 g (0.15 mol) of 2,2-dibromopropanol in 150 ml of CH2Cl2, at -20° C, and 12 ml (0.15 mol) of pyridine in 15 ml of CH2Cl2 are then added slowly dropwise at -20° C to -5° C and the mixture is stirred for a further 2 hours at 20° C. The solution is washed, at 0° C, with water, 5% strength sulphuric acid and H2O and dried (Na2SO4) and the solvent is stripped off (46.1 g of crude product). Vacuum distillation gives 36.3 g (86%) of 2,2-dibromopropoxycarbonyl chloride as a colorless liquid. Boiling point12 = 81°-86° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,2-dibromopropanol | 0.15 mol, 33 g | BrC(CO)(C)Br | C3H6Br2O
reactant | pyridine | 0.15 mol, 12 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 2,2-dibromopropoxycarbonyl chloride | 36.3 g, 86% | BrC(COC(=O)Cl)(C)Br | C4H5Br2ClO2
